* PODMODELE BRAMEK
.model d_xor_hc d_xor(rise_delay=10ns fall_delay=10ns)
.model d_and_hc d_and(rise_delay=10ns fall_delay=10ns)
.model d_or_hc  d_or(rise_delay=10ns fall_delay=10ns)

* PODMODEL PEŁNEGO SUMATORA (1-BIT)
.subckt FULL_ADDER_1B A B Cin Sum Cout
  a_xor1 [A B]   xor_int d_xor_hc
  a_xor2 [xor_int Cin] Sum d_xor_hc
  
  a_and1 [A B]   and1_int d_and_hc
  a_and2 [Cin xor_int] and2_int d_and_hc
  a_or1  [and1_int and2_int] Cout d_or_hc
.ends

* 74HC283
.SUBCKT 74HC283 S2 B2 A2 S1 A1 B1 C0 GND C4 S4 B4 A4 S3 A3 B3 VCC

R1 A1 GND 1G
R2 A2 GND 1G
R3 A3 GND 1G
R4 A4 GND 1G
R5 B1 GND 1G
R6 B2 GND 1G
R7 B3 GND 1G
R8 B4 GND 1G
R9 C0 GND 1G

X1 A1 B1 C0     S1 C1_int FULL_ADDER_1B
X2 A2 B2 C1_int S2 C2_int FULL_ADDER_1B
X3 A3 B3 C2_int S3 C3_int FULL_ADDER_1B
X4 A4 B4 C3_int S4 C4     FULL_ADDER_1B

.ENDS